US06166260
Cyclopentanone (25 g, 0.3 mol) was added at room temperature to a solution of trimethyl ortoformate (33 ml, 0.3 mol) in 60 ml anhydrous MeOH containing 75 mg TsOH. The resulting mixture was allowed to stand at room temperature for 2 hours. After adding MeONa to pH 8-8.5 and removing the MeOH, the remaining portion was distilled in vacuo to give 23.2 g (60%) of pure cyclopentanone dimethyl acetal having a boiling point of 42° C. (8 torr). NMR-1H (δ, ppm) in CDCI3 : 1.43-1.72 m (8H, 4CH2); 3.08 s (6H, 2 OCH3). NMR-13C (6 ppm) in CDCl3 : 22.89 (2CH 2), 33.82 (2CH2), 48.76 (2CH3O), 111.81 (O--C--O).

reactant | Cyclopentanone | 0.3 mol, 25 g | C1(CCCC1)=O | C5H8O
reactant | MeONa | CO[Na]
reactant | MeOH | 60 ml, 75 mg | CO | CH4O
product | cyclopentanone dimethyl acetal | 23.2 g, 60% | COC1(CCCC1)OC | C7H14O2
